US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine (CAN 1153831-97-0) as starting materials, MS (LC/MS): 357.1 [M+H]+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine | CC(N)(C1=NOC(=N1)C)C | C6H11N3O
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid [1-methyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl)-ethyl]-amide | CC(C)(C1=NOC(=N1)C)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C19H24N4O3
